US07091215B2
N-Cyclopropyl-N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine
After dissolving N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (100 mg) in methanol (10 mL), ((1-ethoxycyclopropyl)oxy)trimethylsilane (60 μL), acetic acid (298 μL) and sodium cyanoborohydride (171 mg) were added and the mixture was heated to reflux for 6 hours. After cooling the reaction mixture to room temperature, saturated aqueous sodium hydrogencarbonate was added, extraction was performed with ethyl acetate, and the organic layer was washed with brine. After drying the obtained organic layer over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (74 mg) was obtained from the n-hexane:ethyl acetate (10:1) fraction as a yellow oil.

reactant | N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 100 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C21H25N3OS
reactant | sodium cyanoborohydride | 171 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ((1-ethoxycyclopropyl)oxy)trimethylsilane | 60 μL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
solvent | methanol | 10 mL | CO | CH4O
solvent | acetic acid | 298 μL | C(C)(=O)O | C2H4O2
product | N-Cyclopropyl-N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 74 mg | C1(CC1)N(C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC)CC2CC2 | C24H29N3OS
